US06949639B1
Synthesis of 2′-deoxy-5′-O-(4,4′-dimethoxytrityl)-N3 (hex-5-yn-1-yl)uridine (9)
5-Hexynol was allowed to react with 2′-deoxy-5′-O-(4,4′-dimethoxytrityl)uridine under Mitsunobu conditions described in example 1. Purification on silica gel (eluent diethyl ether) yielded the title compound as a solid (86%) Compound 9:

reactant | 5-Hexynol | C(CCCC#C)O | C6H10O
reactant | 2′-deoxy-5′-O-(4,4′-dimethoxytrityl)uridine | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H](C[C@@H](O2)N2C(=O)NC(=O)C=C2)O)C=C1 | C30H30N2O7
product | 2′-deoxy-5′-O-(4,4′-dimethoxytrityl)-N3 (hex-5-yn-1-yl)uridine | 86% | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H](C[C@@H](O2)N2C(=O)N(C(=O)C=C2)CCCCC#C)O)C=C1 | C36H38N2O7
